US04537966
Preparation of 1-(2-Methylamino-5-aminobenzoyl)-1H-indazol-3-ol
To 1.1 g. of 1-(2-methylamino-5-nitrobenzoyl)-1H-indazol-3-ol, prepared in Example 14, suspended in 200 ml of absolute EtOH was added 200 mg of 5% Pd/C and the mixture was hydrogenated at 50 psi for 16 hours. The catalyst was filtered off, washed with hot EtOH and the filtrate was diluted with H2O and concentrated to small volume. The precipitate was collected, washed with cold 95% EtOH and dried; yield of dark-yellow amorphous powder 0.65 g. (65.4%); m.p. 184°-186° C.

reactant | 1-(2-methylamino-5-nitrobenzoyl)-1H-indazol-3-ol | CNC1=C(C(=O)N2N=C(C3=CC=CC=C23)O)C=C(C=C1)[N+](=O)[O-] | C15H12N4O4
solvent | EtOH | 200 ml | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1-(2-Methylamino-5-aminobenzoyl)-1H-indazol-3-ol | CNC1=C(C(=O)N2N=C(C3=CC=CC=C23)O)C=C(C=C1)N | C15H14N4O2
